US05002584
Cellulose acetobutyrate, butyl stearate, dibutyl phthalate and the polyether siloxane are dissolved at room temperature in a kettle with stirring in ethylhexyl acetate and butylglycol acetate to give a clear solution. The silica is then added and vigorously stirred for 15 minutes. To disperse the silica, the mixture is then bead-milled to completion once with cooling with glass beads 1 mm in diameter. Finally, the matt varnish is diluted with methoxy propanol and n-butyl acetate to sprayable consistency.

reactant | butyl stearate | C(CCCCCCCCCCCCCCCCC)(=O)OCCCC | C22H44O2
reactant | dibutyl phthalate | C(C=1C(C(=O)OCCCC)=CC=CC1)(=O)OCCCC | C16H22O4
solvent | ethylhexyl acetate | C(C)(=O)OC(CCCCC)CC | C10H20O2
product | butylglycol acetate | CCCCOCCOC(=O)C | C8H16O3
